US03932429
A mixture of 0.4 g of 1-(3-hydroxyphenyl)-6-azabicyclo[3,2,1]octane, 0.4 g of 2-benzoylethyl chloride, 0.4 of potassium carbonate, 0.03 g of potassium iodide and 5 ml of dimethylformamide is stirred at 100°C for 4 hours in a nitrogen atmosphere. After cooling, water is added to the mixture, and the aqueous mixture is extracted with chloroform. The chloroform extract is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is dissolved in 5 ml of chloroform. The chloroform solution is poured onto a column of 40 g of silica gel. Then, the column is eluted with a mixture of 300 ml of chloroform and 15 ml of methanol, and the effluent is evaporated to remove solvent. Methanolic hydrogen chloride is added to the residue in ether, and the crystalline precipitate is collected by filtration. The precipitate is recrystallized from a mixture of methanol and ether. 0.1 g of 1-(3-hydroxyphenyl)-6-(2-benzoylethyl)-6-azabicyclo[ 3,2,1]octane hydrochloride is obtained. M.p. 187°- 189°C.

reactant | 1-(3-hydroxyphenyl)-6-azabicyclo[3,2,1]octane | 0.4 g | OC=1C=C(C=CC1)C12CCCC(NC1)C2 | C13H17NO
reactant | 2-benzoylethyl chloride | 0.4 g | C(C1=CC=CC=C1)(=O)CCCl | C9H9ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.03 g | [I-].[K+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(3-hydroxyphenyl)-6-(2-benzoylethyl)-6-azabicyclo[ 3,2,1]octane hydrochloride | 0.1 g | Cl.OC=1C=C(C=CC1)C12CCCC(N(C1)CCC(C1=CC=CC=C1)=O)C2 | InChI=1S/C22H25NO2.ClH/c24-20-10-4-8-18(14-20)22-12-5-9-19(15-22)23(16-22)13-11-21(25)17-6-2-1-3-7-17;/h1-4,6-8,10,14,19,24H,5,9,11-13,15-16H2;1H
